US05696263
(R)-3-Azido-2-O-(diisopropyl phosphonomethoxyl)-1,2-propanediol
(R)-3-Azido-1-O-benzyl-2-O-(diisopropyl phosphonomethoxyl)-1,2-propanediol (6.15 g, 15.96 mmol) was dissolved in 35 mL of anhydrous methylene chloride under nitrogen atmosphere. To this solution, boron trichloride (1M in methylene chloride) (48 mL, 48 mmol) was slowly added at -78° C. The mixture was stirred at -78° C. for 4 hour, and then saturated aqueous sodium bicarbonate (100 mL) and methylene chloride (150 mL) were added. The aqueous layer was separated and extrated with methylene chloride (150 mL×2). The combined methylene chloride extracts were dried over magnesium sulfate. Filtration and concentration under reduced pressure gave a residue which was purified by flash chromatography on silica gel (methylene chloride:acetone=5:1 to 1:1) to provide 4.39 q (93% yield) of the title compound as an oil.

reactant | (R)-3-Azido-1-O-benzyl-2-O-(diisopropyl phosphonomethoxyl)-1,2-propanediol | 15.96 mmol, 6.15 g | N(=[N+]=[N-])C[C@H](COCC1=CC=CC=C1)OOC(P(=O)(O)O)(C(C)C)C(C)C | C17H28N3O6P
reactant | boron trichloride | 48 mmol, 1M, 48 mL | B(Cl)(Cl)Cl | BCl3
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-Azido-2-O-(diisopropyl phosphonomethoxyl)-1,2-propanediol | 93% yield | N(=[N+]=[N-])C[C@H](CO)OOC(P(=O)(O)O)(C(C)C)C(C)C | C10H22N3O6P
